US08461209B2
(1) ethyl 1-(tert-butoxycarbonyl)pyrazole-4-carboxylate
To a solution of ethyl pyrazolecarboxylate (20.5 g) in ethanol (150 mL) were added a solution of di-tert-butyl dicarbonate (32.0 g) in ethanol (150 mL) and triethylamine (22 mL) at room temperature, and the mixture was stirred for 3 hr.

reactant | ethyl pyrazolecarboxylate | 20.5 g | N1N=C(C=C1)C(=O)OCC | C6H8N2O2
reactant | di-tert-butyl dicarbonate | 32.0 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | ethanol | 150 mL | C(C)O | C2H6O
solvent | ethanol | 150 mL | C(C)O | C2H6O
solvent | triethylamine | 22 mL | C(C)N(CC)CC | C6H15N
product | ethyl 1-(tert-butoxycarbonyl)pyrazole-4-carboxylate | C(C)(C)(C)OC(=O)N1N=CC(=C1)C(=O)OCC | C11H16N2O4
